US04011333
A mixture of 18.6 g (0.090 mole) of 5-bromo-2-thiophenecarboxylic acid, 25.0 g (0.109 mole) of 1-tetradecanethiol and 500 ml of dried dimethyl acetamide is stirred at room temperature after which 10.8 g (0.200 mole) of sodium methoxide is added. The mixture is heated and the methanol formed is allowed to distill off. The mixture is refluxed for 24 hours after which the mixture is cooled and poured into a water-ice mixture, acidified with 10% aqueous hydrochloric acid, filtered, and the precipitate washed with water and dried. The solid obtained is crystallized from the methanol then recrystallized from hexane to give 5-(tetradecylthio)-2 -thiophene carboxylic acid, M.P. 106°-108° C.

reactant | 5-bromo-2-thiophenecarboxylic acid | 0.090 mole, 18.6 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 1-tetradecanethiol | 0.109 mole, 25.0 g | C(CCCCCCCCCCCCC)S | C14H30S
reactant | dimethyl acetamide | 500 ml | CC(=O)N(C)C | C4H9NO
reactant | sodium methoxide | 0.200 mole, 10.8 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(tetradecylthio)-2 -thiophene carboxylic acid | C(CCCCCCCCCCCCC)SC1=CC=C(S1)C(=O)O | C19H32O2S2
